US07361677B2
4-{[3-(4-Hydroxy-benzenesulfonyl)-propyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile (CAB02169, STX541)
Palladium on charcoal (50 mg, 10% Pd) was added to a solution of 4-{[3-(4-Benzyloxy-benzenesulfonyl)-propyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile (CAB02168, 118 mg, 0.25 mmol) in THF (10 mL) and ethanol (10 mL). The mixture was stirred under hydrogen atmosphere (balloon) for 18 h at room temperature. The reaction mixture was filtered through celite and the clear colourless filtrate was concentrated under reduced pressure. The residue was crystallised from acetone/water. Yield: 68 mg (71%) colourless crystals. 1H-NMR (400 MHz, d6-DMSO) δ=1.68-1.76 (m, 2H), 3.38 (t, J=7.6 Hz, 2H), 3.92 (t, J=7.2 Hz, 2H), 6.57 (d, J=9.0 Hz, 2H), 6.95 (d, J=9.0 Hz, 2H), 7.68 (d, J=9.0 Hz, 2H), 7.73 (d, J=9.0 Hz, 2H), 8.97 (s, 2H), 10.64 (s, 1H, —OH). LRMS (FAB+): 384.0 (100, [M+H]+). HRMS (FAB+): 384.11248 C18H18N5O3S requires 384.11304.

reactant | 4-{[3-(4-Benzyloxy-benzenesulfonyl)-propyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile | 0.25 mmol, 118 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)CCCN(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C25H23N5O3S
catalyst | Palladium on charcoal | 50 mg | [Pd] | Pd
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-{[3-(4-Hydroxy-benzenesulfonyl)-propyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile | OC1=CC=C(C=C1)S(=O)(=O)CCCN(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C18H17N5O3S
